US06984741B2
Synthesis of 2-(n-butyl)-5-nitro-2,3-dihydrobenzofuran-3-ol
700 mg of 2-(n-butyl)-5-nitro-3(2H)-benzofuranone were introduced into 10 ml of ethanol in a 50 ml flask and cooled to 0° C. A solution of 130 mg of NaBH4 in 5 ml of ethanol was added dropwise thereto, an intense red coloration immediately appearing. The mixture was allowed to reach room temperature and was then briefly heated to reflux. After cooling to room temperature, the reaction mixture was taken up in water and dichloromethane, the organic phase was separated off, and the aqueous phase was extracted once more with dichloromethane. Drying of the combined organic phases over sodium sulphate, removal of the solvent in vacuo and column chromatography (eluent: hexane:ethyl acetate=5:1) resulted in 400 mg (57% of theory) of 2-(n-butyl)-5-nitro-2,3-dihydrobenzofuran-3-ol.

reactant | 2-(n-butyl)-5-nitro-3(2H)-benzofuranone | 700 mg | C(CCC)C1OC2=C(C1=O)C=C(C=C2)[N+](=O)[O-] | C12H13NO4
reactant | NaBH4 | 130 mg | [BH4-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(n-butyl)-5-nitro-2,3-dihydrobenzofuran-3-ol | C(CCC)C1OC2=C(C1O)C=C(C=C2)[N+](=O)[O-] | C12H15NO4
